US05962682
Analogously to Example 74, by condensing 3-(2-hydroxy-ethoxy)-4-(3-methoxy-phenoxy)-5-(4-methylsulphanyl-benzenesulphonyl-amino)-benzoic acid with aniline there was obtained 3-(2-hydroxy-ethoxy)-4-(3-methoxy-phenoxy)-5-(4-methylsulphanyl-benzenesulphonyl-amino)-N-phenyl-benzamide.

reactant | 3-(2-hydroxy-ethoxy)-4-(3-methoxy-phenoxy)-5-(4-methylsulphanyl-benzenesulphonyl-amino)-benzoic acid | OCCOC=1C=C(C(=O)O)C=C(C1OC1=CC(=CC=C1)OC)NS(=O)(=O)C1=CC=C(C=C1)SC | C23H23NO8S2
reactant | aniline | NC1=CC=CC=C1 | C6H7N
product | 3-(2-hydroxy-ethoxy)-4-(3-methoxy-phenoxy)-5-(4-methylsulphanyl-benzenesulphonyl-amino)-N-phenyl-benzamide | OCCOC=1C=C(C(=O)NC2=CC=CC=C2)C=C(C1OC1=CC(=CC=C1)OC)NS(=O)(=O)C1=CC=C(C=C1)SC | C29H28N2O7S2
